US04655883
After electrolysis, the electrolyte contains 15.8% by area of product and also 26.1% by area of mesitylene and 13.1% by area of trimethyl phosphite. The crude electrolyte is worked up by being concentrated on a rotary evaporator. The conducting salt is precipitated from the residue by means of ethyl acetate and is recovered by filtration. Fractional distillation gives 141 g of dimethyl 2,4,6-trimethylbenzenephosphonate, corresponding to a material yield of 31% and a current efficiency of 26%.

reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | dimethyl 2,4,6-trimethylbenzenephosphonate | 141 g | CC1=C(C(=CC(=C1)C)C)P(OC)(=O)OC | C11H17O3P
